US06426345B1
4N Aqueous solution of sodium hydroxide (1 ml) was added to a solution of ethyl 3-[(3-nitropyridin-2-yl)amino]benzoate (322 mg) in ethanol (2 ml) and 1,4-dioxane (2 ml). After stirred at room temperature for 1 hour, the mixture was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulfate and concentrated to give 3-[(3-nitropyridin-2-yl)amino]benzoic acid (263 mg) as solid.

reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | ethyl 3-[(3-nitropyridin-2-yl)amino]benzoate | 322 mg | [N+](=O)([O-])C=1C(=NC=CC1)NC=1C=C(C(=O)OCC)C=CC1 | C14H13N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 3-[(3-nitropyridin-2-yl)amino]benzoic acid | 263 mg | [N+](=O)([O-])C=1C(=NC=CC1)NC=1C=C(C(=O)O)C=CC1 | C12H9N3O4
